US07157471B2
1-(1-Benzyl-piperidin-4-yl)-5-fluoro-2-pentafluoroethyl-1 H-benzoimidazole
6 g 1-Benzyl-4-(2-amino-4-fluoro-phenylamino)-piperidine and 5.3 ml perfluoro-propionic anhydride were heated at 100–130° C. for 12 h. After cooling the residue was dissolved in ethyl acetate, treated with conc. NH3 and stirred for 10 min. The organic phase was 2× extracted with water, and dried over MgSO4. After evaoration the residue was purified by flash chromatography with dichloromethane/methanol 98:2. Yield: 6 g beige crystals (mp. 118–119° C.).

reactant | 1-Benzyl-4-(2-amino-4-fluoro-phenylamino)-piperidine | 6 g | C(C1=CC=CC=C1)N1CCC(CC1)NC1=C(C=C(C=C1)F)N | C18H22FN3
reactant | perfluoro-propionic anhydride | 5.3 ml | FC(C(=O)OC(C(C(F)(F)F)(F)F)=O)(C(F)(F)F)F | C6F10O3
reactant | NH3 | N | H3N
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(1-Benzyl-piperidin-4-yl)-5-fluoro-2-pentafluoroethyl-1 H-benzoimidazole | C(C1=CC=CC=C1)N1CCC(CC1)N1C(=NC2=C1C=CC(=C2)F)C(C(F)(F)F)(F)F | C21H19F6N3
